US09302991B2
<Step-4>:(2-methoxy-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine
Hydrazine hydrate (0.13 mL) is added to a solution of 2-((2-methoxy-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)isoindoline-1,3-dione (0.67 g, 1.83 mmol) in methanol (20 mL) and stirred for 20 hours at 50° C. After removal of the solvent, the residue is poured into 2N sodium hydroxide (10 mL) and extracted with dichloromethane (30 mL×3) and dried over sodium sulfate, and concentrated in vacuo to give 0.41 g (95% yield) of the title compound as a white solid.

reactant | Hydrazine hydrate | 0.13 mL | O.NN
reactant | 2-((2-methoxy-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)isoindoline-1,3-dione | 1.83 mmol, 0.67 g | COC1=NC(=CC=C1CN1C(C2=CC=CC=C2C1=O)=O)OCC(F)(F)F | C17H13F3N2O4
solvent | methanol | 20 mL | CO | CH4O
product | (2-methoxy-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine | 0.41 g, 95% yield | COC1=NC(=CC=C1CN)OCC(F)(F)F | C9H11F3N2O2
